Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"my retirement was coming up  "
 
Major Surgical or Invasive Procedure:
none 

 
History of Present Illness:
Case of a ___ y/o male with a past medical history of
hyperlipidemia, hyperuricemia, and TKR who presented to ___ after
cutting his wrists and taking OD of approximately 300 mg
paroxetine and 150 mg of zolpidem as a suicide attempt. 

   
 On initial interview patient describes:
Patient reports that he still works ___ at ___ 
___,
but mostly stays in his house and feels alone when he is not
working.  He has a close friend and a couple of cousins; he goes
to church and has some activities.  He feels ok when he is with
people, but he has been focused for past few months on having no
spouse, children, parents, siblings and feeling alone. 
He has seen two medical doctors who ___,
trazadone, and Ambien for depression and insomnia. But yesterday
morning he decided to act on his feelings of hopelessness and 
cut
his wrists superficially and took his pills.  His cousin found
him and called the ambulance.  The patient denies any advanced
planning and denies any acute precipitant.  He reports insomnia
unless he takes medication, but reports good appetite, good
concentration, and denies psychotic or homicidal ideation.

On current interview patient describes:

He states that everything just became to overwhelming for him,
specifically in the setting of his retirement coming up in
___. When mentioning this date he initially states " I
don't think Ill make to then because I won't live that long". He
states that people have been asking him what his plans are after
his retirement, which he dislikes as he is still unsure of what
he wants to do, he states " I will figure it out when I get
there". He states he has also been thinking about not having
anyone in his life, feels some regret as he has never married,
has no children and most of his close family have passed,
including his parents. He notes he has been feeling lonely for
the past ___ months. He also mentions he has been having trouble
sleeping, and his appetite has decreased significantly during
this time. When asked what precipitated his actions regarding
taking the medication he states he did not intent to overdose on
the Zolpidem or the Paroxetine. He states he only took 4 pills 
of
the Zolpidem and 1 pill of the paroxetine. He states he has 
never
had any thoughts of suicide in the past. Initially when asked
about ___ he denies any thoughts of ___, interviewer
later points out that patient has slit his wrist bilaterally, he
then endorses he did this due to feeling depressed but denies
this being an attempt to take his life.  He is vague when asked
about the reasons why he cut his wrist, and again states he was
depressed. He denies any problems with motivation, 
concentration,
or interest, all in the setting of him being motivated to go to
his job.  He denies feeling hopeless about the future, and was
later asked what things he is looking forward to after his
retirement, he states he could take some time to rest, take  a
vacation, volunteer, but ends with "when I get to that point 
then
I will think about it ". 

Collateral;
Per EMS, at approximately 1030 the patient took 10 10mg Ambien
and 8
20mg Paroxetine in an attempt to kill himself. They stated that
they were alerted when the patient's friend arrived and found 
him
woozy and depressed. The patient states that this is not his
first time attempting to commit suicide and reports that he
attempted to slit his wrists on ___.

REVIEW OF SYSTEMS:
-Psychiatric: 
---Anxiety: Denies symptoms of anxiety such as worry, 
rumination,
intrusive thoughts, avoidance, phobias, panic.
---Mania: Denies symptoms of mania such as distractibility,
erratic/risky behavior, grandiosity, flight of ideas, increased
activity, decreased need for sleep, or talkativeness/pressured
speech.  
---Psychosis: Denies symptoms of psychosis such as auditory or
visual hallucinations, or delusions of reference, paranoia,
thought insertion/broadcasting/withdrawal.
  

 
Past Medical History:
Past psychiatric history: Per Dr. ___ MD's ___ consult
note from ___ ,confirmed with patient and updated as
relevant:
-Prior diagnoses: denies 
-Hospitalizations: denies 
-Partial hospitalizations: denies 
-Psychiatrist: none 
-Therapist: none 
-Medication trials: Trazodone 
-___ trials: none 
-Suicide attempts: see HPI, denies prior 
-___ behavior: denies 
-Harm to others: denies 
-Trauma: denies 
-Access to weapons: denies 

 Past medical history: Per Dr. ___ MD's ___ consult 
note
from ___ ,confirmed with patient and updated as relevant:
 PCP: ___
HYPERLIPIDEMIA                                                  
High Tg                                                         
HYPERURICEMIA                                                   
RIGHT TKR ___      
VISUAL OBSCURATIONS

Denies history of head trauma, seizure.

 
Social History:
Substance use history: Per Dr. ___ MD's ___ consult 
note
from ___ ,confirmed with patient and updated as relevant:
-Caffeine: on cup of coffee every day 
-Tobacco: denies 
-Alcohol:   quit 3 weeks ago since being started on Zolpidem,
prior to this had 2 drinks a night ( rum and coke) 
-Marijuana: denies 
-Heroin: denies
-Opiates: denies
-Benzos: denies
-Cocaine: denies
-Amphetamines/speed: denies
-LSD/PCP: denies
denies -Other Drugs: Denies
 
Forensic history : Per Dr. ___ MD's ___ consult note
from ___ ,confirmed with patient and updated as relevant:
-Arrests: Denies
-Convictions and jail terms: Denies
-Current status (pending charges, probation, parole): Denies
 
Personal and Social History: ___
Family History:
Family psychiatric history: Per Dr. ___ MD's ___ 
consult
note from ___ ,confirmed with patient and updated as
relevant:
- Fam Dx: denies 
- Fam Hospitalizations: denies  
- Fam Treatment Hx/Med Trials: denies 
- Fam Hx Suicide:  denies 
 
Physical Exam:
PHYSICAL EXAMINATION:
VS: T:98.4 , BP:168/102 , HR:96 , R:16 , O2 sat: 95% on RA
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
oropharynx clear, supple neck. No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. Distal pulses ___ throughout.
-Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Distended (patient says it's baseline), bowel sounds
normoactive.  No tenderness to palpation in all quadrants.  No
guarding, no rebound tenderness.
-Extremities: Warm and ___.  No edema of the limbs.
-Skin: Pale appearing. No rashes or lesions noted.

Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consentually; brisk
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
-DTRs: 2 and symmetrical throughout
Coordination: Normal on finger to nose test, no intention tremor
noted
-Gait: Good initiation.  ___, normal stride and arm
swing.  Able to walk in tandem without difficulty.  Romberg
absent.

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: intact to interview 
-Orientation: Oriented to person, time, place, situation
-Executive function ___ go, Luria, trails, FAS): Not tested
-Memory: ___ grossly intact
-Fund of knowledge: Consistent with education;
-Calculations: Not assessed
-Abstraction: Not assessed
-Visuospatial: Not assessed
-Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation
 
Mental Status:
-Appearance: man appearing stated age, well groomed, wearing
hospital gown, in no apparent distress
-Behavior: Sitting up in chair, appropriate eye contact, no
psychomotor agitation or retardation
-Attitude: Cooperative, engaged, friendly, tearful during
interive w
-Mood: "fine"
-Affect: restricted, ___ congruent, appropriate to 
situation
-Speech: Normal rate, volume, and tone
-Thought process: Linear, coherent, ___, no loose
associations
-Thought Content:
---Safety: Denies SI/HI
---Delusions: No evidence of paranoia, etc. 
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
-Insight: poor 
-Judgment: poor 

=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
================================================================
Discharge 
Mental status 

-Appearance: man appearing stated age, well groomed, wearing
red shit, jeans and grey undershirt, in no apparent distress
-Behavior: Sitting up in chair, appropriate eye contact, no
psychomotor agitation or retardation
-Attitude: Cooperative, engaged, friendly
-Mood: "good"
-Affect: brighter, Mood congruent, appropriate to situation
-Speech: Normal rate, volume, and tone
-Thought process: Linear, coherent, ___, no loose
associations
-Thought Content:
---Safety: Denies SI/HI
---Delusions: No evidence of paranoia, etc. 
---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
-Insight/Judgment: fair/fair
Mr. ___ asked good questions about outpatient follow up. He also 
asked to provide him with letter for his employer as he was away 
from his job while in the hospital. He also was thinking what he 
should tell his coworkers about his absence. Pt was reminded 
about his right for confidentiality.

 
Pertinent Results:
___:25PM URINE  ___
___ 08:25PM URINE  ___
___ 08:25PM URINE  ___ 
___
___ 08:25PM URINE  ___ SP ___
___ 08:25PM URINE  ___ 
___ 
___
___ 08:25PM URINE  ___ 
EPI-<1
___ 08:25PM URINE  ___
___ 08:25PM URINE  ___
___ 05:30PM   ___
___ 01:28PM   ___
___ 12:53PM   ___ F
___ 12:02PM   ___ UREA ___ 
___ TOTAL ___ ANION ___
___ 12:02PM   ___ this
___ 12:02PM   ALT(SGPT)-10 AST(SGOT)-22 ALK ___ TOT 
___
___ 12:02PM   ___
___ 12:02PM   ___ 
___
___ 12:02PM   ___ 
___
___ 12:02PM   ___ 
___ IM ___ 
___
___ 12:02PM   PLT ___
___ 12:02PM   ___ ___
___ 10:45AM BLOOD ___ 
___ Plt ___
___ 10:45AM BLOOD ___ 
___ Im ___ 
___
___ 10:45AM BLOOD ___ 
___
___ 10:45AM BLOOD ___
___ 10:45AM BLOOD ___
___ 10:45AM BLOOD ___
___ 06:25AM BLOOD ___ 
___
___ 06:25AM BLOOD ___. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11), on ___ he signed a 3 day 
notice  which expired on ___.  Given patient was not deemed 
to be a danger to himself he was discharged on ___. They 
were also placed on 15 minute checks status on admission and 
remained on that level of observation throughout while being 
unit restricted.

2. PSYCHIATRIC:
#) Case of a ___ y/o male with a past medical history of 
hyperlipidemia, hyperuricemia, and TKR who presented to ___ after 
cutting his wrists and taking OD of approximately 300 mg 
paroxetine and 150 mg of zolpidem as a suicide attempt. 
Initially on interview patient endorsed struggling due to 
feeling alone during this period of time in his life, and worry 
surrounding his impending retirement. He also endorsed several 
___ symptoms including poor sleep, decreased 
appetite, low energy, depressed mood. He initially denied 
suicidal ideation at time of ingestion or in the past, per 
review of ___ had endorsed passive suicidal ideation to primary 
care provider, and neurology consultant.  Regarding his overdose 
patient initially denied taking the amount that was reported by 
EMS. He also initially denied having cut his wrist with the 
intent of taking his life. Collateral from friend ___ per ___ 
review was significant for friend reporting patient had intended 
to take his life by cutting his wrist prior to current 
presentation with overdose with Paroxetine and Zolpidem.  

___ was initially minimizing and dismissing his symptoms, 
and initially did not feel he needed inpatient hospitalization. 
It was highly concerning that patient had poor insight into the 
severity of his symptoms and the gravity of his attempt. On MSE 
patient was noted to become tearful when discussing his 
stressors, otherwise would smile superficially during interview. 
His affect was restricted, and ___ with reported mood. 
Given his history presentation was suggestive of a mayor 
depressive disorder, single episode. Although patient would 
benefit from SSRI given recent overdose on Paroxetine and 
patient having residual symptoms from overdose such as 
hypertension as well as urinary retention it was determined 
patient would not benefit from an SSRI during current 
hospitalization until his symptoms improved, see medical section 
for additional details. On ___ patient was able to admit to 
having overdosed with the intent to die, and was at this point 
amenable to starting Lamictal 25 mg with the good of possible 
mood stabilization with the avoidance of anticholinergic 
symptoms or worsening of possible serotonergic side effects from 
other antidepressant medications. During hospitalization patient 
chose to not take this medication, as he felt well with out the 
use of medications. He was encouraged to try the medication as 
this could help his mood, but was also reminded of his right to 
refuse medication. Patient persisted he did not need medication. 
Patient was encouraged to ___ with outpatient providers, 
and continue discussions revolving risk and benefits of 
medications for his depression.  

On ___ family meeting was held with ___ patients 
girlfriend and ___ patients long time friend, who were both 
involved in discharge planning, and were able to attest to 
___ improvement since admission. During his admission a 
change in patients affect and behavior was observed, patient 
initially would keep to himself in his room, later becoming more 
interactive in the milieu, able to interact with other patients 
and attending groups. Although initaly resistant to attending 
groups he was able to state that these were the most helpful 
during his inpatient stay. At time of discharge patient 
continued to deny suicidal ideation, and was able to come to 
terms with his depression and need for continued ___ in 
the community. His after was brighter, and was mood congruent. 
He was discharged with ___ appointments with his PCP for 
medical ___, referrals to outpatient psychiatry and 
therapy. 

3. Substance Use  On admission patient denies current history of 
substance use, urine and serum toxicology were negative. Patient 
denied smoking, and quit drinking 3 months ago, due to concerns 
for interactions with his sleep medications. 

4. MEDICAL
___ Incidentally in the ___ on ___, patient was noted to have 
a dirty urinalysis concerning for infection (culture grew mixed 
flora c/w genital contamination). He was started on empirically 
Bactrim on ___. Repeat u/a on ___ was bland and not 
consistent with infection or any urinary tract inflammation. 
Bactrim was discontinued on ___. Of note he had a foley 
catheter placed in the ___, which was removed on ___. After 
which he began noticing a change in his urine stream. Renal 
ultrasound with significant ___ residual and patient 
history of recent ___ voids suggest 
obstructive uropathy. Most likely this urinary retention is a 
result of ongoing anticholinergic toxicity from paroxetine 
overdose. Calculated FeNa was 15.3 also suggestive of an 
obstructive pathology. Therefore Foley catheter was placed on 
___. He was started on Flomax 0.4 mg on ___. Patients 
Cr continued to increase on ___ reaching a high of 2.2, 
patient was also resistant to leave with foley catheter in 
place. Therefore it was decided to continue to monitor patient 
in the inpatient setting due to persistently elevated Cr and 
need for foley catheter with no social supports in home to 
monitor patients compliance with adequate maintenance. Voiding 
trial was done on ___ which patient tolerated well, team 
also encouraged increase PO fluid intake. Patients Cr later 
decreased to 1.4 on ___. Therefore patient was discharged 
on ___ and scheduled to be followed up with PCP ___ ___ 
after discharge. 

-Would obtain repeat chem 10 analysis during ___ visit 

# Hypertension:
Blood pressure was noted to be elevated on ___ SBP 190s 
patient was started on amlodipine 2.5, which was increased to 5 
mg on ___. Patient does not have a history of HTN, it was 
thought that this may have been due to ongoing toxicity from 
paroxetine (patient without history of hypertension).  He 
remained on 5 mg of amlodipine which may be tritrated in the 
outpatient basis, given persistence of elevated blood pressure 
range at discharge ___. 

#Hearing loss 
Would consider additional ___ in the outpatient setting for 
hearing loss as this could potentially improve patients quality 
of life 

#Vitamin D deficiency
Patient was noted to have low Vitamin D levels, would encourage 
discussion between PCP and patient to consider addition of 
vitamin supplement. Patient resistant to taking a large number 
of medications during current admission. 

#Elevated triglycerides 
Patient was noted to have elevated triglycerides on laboratory 
analysis, would continue to monitor on the outpatient basis. 

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient was able to attend some of these groups, and found them 
to be helpful. There were no behavioral concerns during current 
hospitalization. Patient was always friendly with staff and 
peers, he usually kept to himself in his room initially later 
observed to be more interactive in the milieu, but was able to 
attend and participate in groups.  

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
Collateral was obtained from patients girlfriend (Ms. ___ 
___ and friend of many years (Mr. ___ patient 
provided verbal consent. Also able to hold family meeting on 
___ with above mentioned people with patient, social work 
and attending psychiatrist Dr. ___. Were presenting history 
was discussed, impressions were exchanged, it was determined 
patient appeared to be at baseline per his friend and 
girlfriend.  We exchanged impressions. Patients friends were 
also educated about resources and ways to help such as 
contacting patient's providers, or contacting BEST. Also, NAMI 
was mentioned as a good resource. Patients PCP was also 
contacted for collateral information and to provide update on 
clinical course and recommendations. 

 

#) INTERVENTIONS
- Medications: Lamictal 25 mg 
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: patient was referred to 
psychiatrist, therapist, and provided ___ with PCP 
- ___: patient was encouraged to attend 
group therapy including CBT, DBT and mindfulness 
-Guardianships: none 

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication including ___ syndrome, 
nausea, dizziness, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any 
questions about medications with the treatment team.  The 
patient appeared able to understand and consented to begin the 
medication.

RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to self based upon recent suicide attempt 
by taking a bottle or paroxetine and zolpidem.  Their static 
factors noted at that time include history of suicide attempts, 
male gender, age, marital status.   The modifiable risk factors 
were also addressed at that time including; hopelessness, 
limited coping skills, no established outpatient treatment, 
insomnia, lack of purpose, impulsivity, closed mindedness and 
recent personal loss of job due to retirement. These were 
addressed through intensive individual therapy, group therapy 
focusing on DBT, CBT, and mindfulness, as well as medication 
management. Finally, the patient is being discharged with many 
protective risk factors, ___ nature, ___ 
viewpoint, life satisfaction,  good coping skills, good 
___ skills,  lack of suicidal ideation, no history 
of substance use disorder, no history of abuse, ability to 
tolerate rejection, and strong social supports. Based on the 
totality of our assessment at this time, the patient is not at 
an acutely elevated risk of ___ nor danger to others. 

Our Prognosis of this patient is, guarded.
 
 
Medications on Admission:
1. TraZODone 50 mg PO QHS 
2. Fluticasone Propionate NASAL 2 SPRY NU DAILY:PRN for sessonal 
allegies 
3. TraMADol 50 mg PO TID 
4. Zolpidem Tartrate 10 mg PO QHS 
5. PARoxetine 20 mg PO DAILY 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 (One) tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
2.  LamoTRIgine 25 mg PO QHS 
RX *lamotrigine [Lamictal] 25 mg 1 (One) tablet(s) by mouth at 
bedtime Disp #*14 Tablet Refills:*0 
3.  Tamsulosin 0.4 mg PO QHS 
RX *tamsulosin 0.4 mg 1 (One) capsule(s) by mouth at bedtime 
Disp #*30 Capsule Refills:*0 
4.  TraZODone 25 mg PO QHS 
RX *trazodone 50 mg 0.5 (One half) tablet(s) by mouth at night 
as needed for insomnia Disp #*15 Tablet Refills:*0 
5.  Fluticasone Propionate NASAL 2 SPRY NU DAILY:PRN for 
sessonal allegies 
RX *fluticasone 50 mcg/actuation 1 (One) 2 SPRY in each nostril 
as needed for seasonal allergies Disp #*1 Spray Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
___ depressive disorder single episode 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were hospitalized at ___ for your depressed mood. While 
you were here you were started on medications, and provided with 
group and individual counseling, given the improvement in your 
symptoms you are now ready to be discharged home.  

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.

 
Followup Instructions:
___